US06849633B2
A mixture of 139 g (0.33 mol) of N-[3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole-5-yl]pyrazine-2-carboxamide, 72.6 g (0.35 mol) of phosphorus pentachloride, and 300 ml of toluene was heated under reflux for 2 hours. Further, 5 g of phosphorus pentachloride was added thereto, followed by heating under reflux for 1 hour. The mixture was cooled to room temperature and allowed to stand overnight. After stirring for 30 minutes, crystals were filtrated and washed with toluene. The crystals were dissolved in 1 L of chloroform and the solution was extracted after the addition of water. The organic layer was washed twice with water, and with saturated saline, and then, dried over anhydrous sodium sulfate. The solvent was removed by distillation and the resulting crystals were washed with hexane to obtain 112.3 g (yield 79%) of 1-(2,6-dichloro-4-trifluoromethylphenyl)-5-(pyrazin-2-ylchloromethylimino)pyrazole-3-carbonitrile.

reactant | N-[3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole-5-yl]pyrazine-2-carboxamide | 0.33 mol, 139 g | C(#N)C1=NN(C(=C1)NC(=O)C1=NC=CN=C1)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C16H7Cl2F3N6O
reactant | phosphorus pentachloride | 0.35 mol, 72.6 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
catalyst | phosphorus pentachloride | 5 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(2,6-dichloro-4-trifluoromethylphenyl)-5-(pyrazin-2-ylchloromethylimino)pyrazole-3-carbonitrile | 112.3 g, yield 79% | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1NC(=CC1=NC(Cl)C1=NC=CN=C1)C#N | C16H8Cl3F3N6
